data/mechanism_extracts/EurJOC/10.1002_ejoc.202400351.json
{"doi": "10.1002_ejoc.202400351", "journal": "EurJOC", "is_review": false, "rxn_class_summary": "Electrochemical 1,2-dihalogenation (F, Cl, Br) of gem-difluoroalkenes using HX (HF, HCl, HBr) as halide source to deliver CF2X-CHX-R type products including 18F-labeled tracers", "mechanism_family": ["radical_anodic", "radical_polar_crossover"], "electrochemical_role": "Anodic oxidation of halide (X-) from HX to halogen radical/halogen species which adds to the gem-difluoroalkene; the resulting carbon radical/cation is trapped by a second halide", "key_intermediates": [{"name": "halide-derived halogen radical (X•) from anodic oxidation of HX", "smiles": null, "role": "reactive"}, {"name": "β-fluorinated carbon radical from X• addition to gem-difluoroalkene (CF2X-C•(H)-R)", "smiles": null, "role": "reactive"}, {"name": "β-fluorinated carbocation after further oxidation (CF2X-C+(H)-R)", "smiles": null, "role": "transient"}], "electron_flow": "Anode oxidizes X- (from HX) to a halogen radical that adds to the terminal CF2=CHR alkene to give a CF2X-substituted carbon radical; this radical is further oxidized at the anode to a carbocation and trapped by a second halide to yield the vicinal dihalide.", "rate_determining_step": null, "probe_reagents": [{"name": "K[18F]F-K222 (Kryptofix-complexed [18F]fluoride)", "smiles": null, "purpose": "isotope_label", "observation": "Enables 18F-labeling of the dihalogenated product, supporting halide incorporation pathway and giving 18F-labeled tracers"}], "evidence_types_used": ["isotope_label"], "evidence_strength": "weak", "notes": "Only the introductory/abstract page was provided; the detailed mechanistic scheme (radical traps, CV, DFT) is not shown here. Mechanism inferred from Scheme 1b (HX + electrolysis, classification as Method III electrochemical dihalogenation) and analogy to prior electrochemical olefin dihalogenations cited in the introduction."}
